US06756382B2
Using the general method of Example 197, 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.5 mmol) was reacted with isobutyryl chloride (0.41 mL, 3.9 mmol) to provide 0.34 g of N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-methylpropanamide as an off white solid, m.p. 155.4-156.3° C. Analysis: Calculated for C20H27N5O.0.75 H2O: % C, 65.46; % H, 7.83; % N, 19.08. Found: % C, 65.84; % H, 7.87; % N, 18.73.

reactant | 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.5 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5
reactant | isobutyryl chloride | 3.9 mmol, 0.41 mL | C(C(C)C)(=O)Cl | C4H7ClO
product | N-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-methylpropanamide | 0.34 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(C(C)C)=O)CC | C20H27N5O
